US08871361B2
4-chloro-3-nitrobenzonitrile (10 g, 54.8 mmol), phenylboronic acid (8.68 g, 71.2 mmol), Pd2dba3 (1.002 g, 1.096 mmol) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (S-Phos) (1.797 g, 4.38 mmol) were charged into a 500 mL 3-neck flask. Toluene (250 mL) was then charged into the reaction mixture followed by potassium phosphate tribasic monohydrate (35.3 g, 153 mmol) dissolved in 60 mL of water. This mixture was degassed with nitrogen then heated at reflux overnight. The reaction mixture was cooled to room temperature then partitioned with water. The toluene layer was dried over magnesium sulfate, filtered, and dried under vacuum. This crude residue was passed through a silica gel column using 15-35% ethyl acetate/hexanes as the eluent. The product fractions were combined and solvents were removed under vacuum. This crude product was triturated with ethyl acetate/hexanes. The product, 2-nitro-[1,1′-biphenyl]-4-carbonitrile, (8.87 g, 39.6 mmol, 72.2% yield) was isolated via filtration as a yellow solid.

reactant | 4-chloro-3-nitrobenzonitrile | 54.8 mmol, 10 g | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | phenylboronic acid | 71.2 mmol, 8.68 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 4.38 mmol, 1.797 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate tribasic monohydrate | 153 mmol, 35.3 g | O.[O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | water | 60 mL | O | H2O
catalyst | Pd2dba3 | 1.096 mmol, 1.002 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2-nitro-[1,1′-biphenyl]-4-carbonitrile | 39.6 mmol, 8.87 g, 72.2% yield | [N+](=O)([O-])C1=C(C=CC(=C1)C#N)C1=CC=CC=C1 | C13H8N2O2
